US07884207B2
Ethoxyacetyl chloride (0.43 mL) was added to a cooled (0° C.) solution of 1-[2-(3-aminoquinolin-4-ylamino)ethyl]cyclopropanol (3.85 mmol) in dichloromethane (16 mL). The reaction mixture was stirred at 0-5° C. for 60 minutes and then concentrated under reduced pressure to provide crude 2-ethoxy-N-{4-[2-(1-hydroxycyclopropyl)ethylamino]quinolin-3-yl}acetamide hydrochloride.

reactant | Ethoxyacetyl chloride | 0.43 mL | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 1-[2-(3-aminoquinolin-4-ylamino)ethyl]cyclopropanol | 3.85 mmol | NC=1C=NC2=CC=CC=C2C1NCCC1(CC1)O | C14H17N3O
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | 2-ethoxy-N-{4-[2-(1-hydroxycyclopropyl)ethylamino]quinolin-3-yl}acetamide hydrochloride | Cl.C(C)OCC(=O)NC=1C=NC2=CC=CC=C2C1NCCC1(CC1)O | InChI=1S/C18H23N3O3.ClH/c1-2-24-12-16(22)21-15-11-20-14-6-4-3-5-13(14)17(15)19-10-9-18(23)7-8-18;/h3-6,11,23H,2,7-10,12H2,1H3,(H,19,20)(H,21,22);1H
